US05296495
To a cooled mixture of 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole (2.85 g) in methanol (28 ml), sodium borohydride (0.38 g) was added in small portions. After being stirred at the same temperature for 2 hours, the resulting solution was poured into ice-water. The resulting precipitates were collected by filtration and washed with water to give 4-tert-butyl-2-(5-hydroxymethylbenzofuran-2-yl)thiazole (2.87 g).

reactant | 4-tert-butyl-2-(5-formylbenzofuran-2-yl)thiazole | 2.85 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C=O | C16H15NO2S
reactant | sodium borohydride | 0.38 g | [BH4-].[Na+]
solvent | methanol | 28 ml | CO | CH4O
product | 4-tert-butyl-2-(5-hydroxymethylbenzofuran-2-yl)thiazole | 2.87 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CO | C16H17NO2S
